US05571843
5-hydroxy-2-thiosemicarbazono-indan-1,3-dione
5-hydroxyindan-1,2,3-trione, monohydrate, thiosemicarbazide hydrochloride, reflux for 2 hours.

reactant | 5-hydroxyindan-1,2,3-trione, monohydrate | O.OC=1C=C2C(C(C(C2=CC1)=O)=O)=O
reactant | thiosemicarbazide hydrochloride | Cl.NNC(=S)N
product | 5-hydroxy-2-thiosemicarbazono-indan-1,3-dione | OC=1C=C2C(C(C(C2=CC1)=O)=NNC(=S)N)=O | C10H7N3O3S
